US05677321
5-Nitro-7-chlorobenzothiazole
To a solution of 5-nitro-6-amino-7-chlorobenzothiazole (0.21 g, 0.91 mmol) in 4 mL of sulfuric acid was added nitrososulfuric acid (0.20 g, 1.6 mmol) in a portion. The resulting reaction mixture was stirred for 12 h at 25° C. It was then cooled to 0° C. and 0.3 mL of H3 PO2 was added into the mixture. Reaction mixture was stirred for another 12 h at 25° C. and for 2 h at 50° C., poured into EtOAc and washed with aq. NaHCO3. Organic layer was dried over Na2SO4 and concentrated in vacuo to provide an oil, which was purified on column chromatography (EtOAc, neat) to produce the desired product (0.12 g, 0.56 mmol, 62%).

reactant | 5-nitro-6-amino-7-chlorobenzothiazole | 0.91 mmol, 0.21 g | [N+](=O)([O-])C=1C(=C(C2=C(N=CS2)C1)Cl)N | C7H4ClN3O2S
reactant | nitrososulfuric acid | 1.6 mmol, 0.20 g | N(=O)OS(O)(=O)=O | HNO5S
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | sulfuric acid | 4 mL | S(O)(O)(=O)=O | H2O4S
product | 5-Nitro-7-chlorobenzothiazole | 0.56 mmol, 0.12 g, 62% | [N+](=O)([O-])C=1C=C(C2=C(N=CS2)C1)Cl | C7H3ClN2O2S
